US07645755B2
a) 1-(2-Trimethylsilanyl-ethoxymethyl)-1H-[1,2,4]-triazole-3-carboxylic acid methyl ester
To a suspension of NaH (60% dispersion) (200 mg, 5.00 mmol) in DMF (5 mL) at 0° C., a solution of methyl-1H-1,2,4-triazolecarboxylate (635 mg, 5.00 mmol) in DMF (5 mL) was added dropwise. The resulting suspension was stirred at the same temperature for 30 min and treated with SEMCl (0.90 mL, 5.0 mmol). The resulting solution was stirred at RT for 30 min and poured onto ice. The product was extracted with ether (3×20 mL). The ether layers were combined, dried (Na2SO4) and concentrated in vacuo. The residue obtained was chromatographed on silica (10% EtOAc/hexane) to obtain the title compound (530 mg, 41%). Mass spectrum (ESI, m/z): Calcd. for C10H19N3O3Si, 258.1 (M+H), found 258.2.

reactant | NaH | 5.00 mmol, 200 mg | [H-].[Na+]
reactant | methyl-1H-1,2,4-triazolecarboxylate | 5.00 mmol, 635 mg | CN1N=C(N=C1)C(=O)[O-]
reactant | SEMCl | 5.0 mmol, 0.90 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(2-Trimethylsilanyl-ethoxymethyl)-1H-[1,2,4]-triazole-3-carboxylic acid methyl ester | 530 mg, 41% | COC(=O)C1=NN(C=N1)COCC[Si](C)(C)C | C10H19N3O3Si
